US08247403B2
(6) 8-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A solution of tert-butyl 8-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (50.0 mg, 0.150 mmol) in 4N hydrogen chloride-ethyl acetate (1 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (25.0 mg, 54.5%) as a solid.

reactant | tert-butyl 8-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.150 mmol, 50.0 mg | N1(CCOCC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C18H26N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 1 ml | C(C)(=O)OCC.Cl
product | 8-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 25.0 mg, 54.5% | Cl.N1(CCOCC1)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C13H18N2O2.ClH/c1-2-12(15-4-7-16-8-5-15)9-13-11(1)10-14-3-6-17-13;/h1-2,9,14H,3-8,10H2;1H
